US05491145
Production of 3-hydroxy-N,N-dimethylpropane-1-sulfonamide
Using 3-acetoxy-1-propanesulfonylchloride and dimethylamine, substantially the same reaction was conducted as in reference example 47 and 48 to produce the title compound.

reactant | 3-acetoxy-1-propanesulfonylchloride | C(C)(=O)OCCCS(=O)(=O)Cl | C5H9ClO4S
reactant | dimethylamine | CNC | C2H7N
product | 3-hydroxy-N,N-dimethylpropane-1-sulfonamide | OCCCS(=O)(=O)N(C)C | C5H13NO3S
